US03968142
With thorough cooling 13.6 g of 3-chloro-4-cyclohexyl-α-(2-carboxyethyl)-hydratropic acid are dissolved in 70 ml of 100% sulfuric acid and the solution is kept over-night at room temperature, then cautiously poured out over ice and the aqueous mixture is extracted with ethyl acetate and the extract is evaporated. The resulting crystals are recrystallized from acetone, to yield 11.5 g of 1-methyl-4-oxo-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid, melting at 227°-228°C, of the formula ##SPC5##

reactant | 3-chloro-4-cyclohexyl-α-(2-carboxyethyl)-hydratropic acid | 13.6 g | ClC=1C=C(C(C(=O)O)(C)CCC(=O)O)C=CC1C1CCCCC1 | C18H23ClO4
solvent | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
product | 1-methyl-4-oxo-6-cyclohexyl-7-chloro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 11.5 g | CC1(CCC(C2=CC(=C(C=C12)Cl)C1CCCCC1)=O)C(=O)O | C18H21ClO3
